US07943609B2
MCPBA (2.73 g of 77% purity, 16 mmol) was added to a solution of 12-methyl-8,9,11,12-tetrahydro-10H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-10-one (1.3 g, 4.9 mmol) in chloroform (20 mL), and the reaction mixture was stirred for 15 minutes at room temperature. Concentrated ammonium hydroxide (30 mL) and p-toluenesulfonyl chloride (1.12 g, 5.86 mmol) were sequentially added, and the resulting mixture was stirred at room temperature for two hours. An analysis by LC/MS indicated the presence of the 5N-oxide, and additional p-toluenesulfonyl chloride (1 equivalent) was added. The mixture was stirred at room temperature overnight. The organic layer was separated and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluting with 0% to 15% 2 N methanolic ammonia in chloroform over a period of 42 minutes) followed by recrystallization from acetonitrile to provide 389 mg of 6-amino-12-methyl-8,9,11,12-tetrahydro-10H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-10-one.

reactant | MCPBA | 16 mmol, 2.73 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 12-methyl-8,9,11,12-tetrahydro-10H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-10-one | 4.9 mmol, 1.3 g | CC1CC(NCC=2N1C1=C(C=NC3=CC=CC=C13)N2)=O | C15H14N4O
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 5.86 mmol, 1.12 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 1 equivalent | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-amino-12-methyl-8,9,11,12-tetrahydro-10H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-10-one | 389 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2C(CC(NC1)=O)C | C15H15N5O
